US07138425B2
c) 2-[4-(2-Methoxyethoxy)-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-(2-methoxyethoxy)phenyl)-5-phenylbenzoxazole (171 mg, 0.47 mmol) and 1,2,4-benzenetricarboxylic anhydride (90 mg, 0.47 mmol) the title compound was obtained (141 mg, 56%). 1H NMR (DMSO) δ 8.57(dd, 1H), 8.46(s, 1H), 8.34(d, 1H), 8.24(d, 1H), 8.19(d, 1H), 7.97(d, 1H), 7.85(m, 4H), 7.63(t, 3H), 7.53(t, 1H), 4.51(t, 2H), 3.95(t, 2H), 3.52(s, 3H). MS 535 m/z (M+H)+.

reactant | 2-(5-amino-2-(2-methoxyethoxy)phenyl)-5-phenylbenzoxazole | 0.47 mmol, 171 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCCOC | C22H20N2O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.47 mmol, 90 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-(2-Methoxyethoxy)-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COCCOC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C31H22N2O7
